US07214674B2
2-Methyl-5-(2-piperazin-1-ylethoxy)quinoline (D2)
tert-Butyl 4-[2-(2-methylquinolin-5-yloxy)ethyl]piperazine-1-carboxylate (1.04 g, 2.8 mmol) was dissolved in ethanol (60 mL) and treated with 1M hydrochloric acid in diethyl ether (16 mL, 16 mmol) and stirred at 40° C. for 17 h. The reaction mixture was filtered and the white solid was collected and dried in vacuo. The hydrochloride salt precipitate was dissolved in water (25 mL) and potassium carbonate was added until the pH reached 10. The aqueous layer was washed with 5% methanol in dichloromethane (4×100 mL) then 10% methanol in dichloromethane (4×100 mL). The organic layers were combined, dried (Na2SO4) and concentrated in vacuo, affording the title compound as a brown oil (0.69 g, 91%).

reactant | tert-Butyl 4-[2-(2-methylquinolin-5-yloxy)ethyl]piperazine-1-carboxylate | 2.8 mmol, 1.04 g | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCN(CC1)C(=O)OC(C)(C)C | C21H29N3O3
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | diethyl ether | 16 mmol, 16 mL | C(C)OCC | C4H10O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2-Methyl-5-(2-piperazin-1-ylethoxy)quinoline | 0.69 g, 91% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCNCC1 | C16H21N3O
